US04927827
To solution of 2-(6-o-chlorophenoxy-2-pyridinyl)-4-hydroxy-6-n-propylprimidine (5 g) in toluene (100 ml), was added phosphoryl chloride (5 g). The mixture was heated under refluxing for one hour and left to stand to room temperature. Aqueous sodium carbonate solution was added thereto until the reaction solution became about pH 8 to be separated into two layers. Toluene layer was washed with water and dried over anhydrous magnesium sulfate. The toluene layer was concentrated under reduced pressure to obtain 4-chlono-2-(6-o-chlorophenoxy-2-pyridinyl)-6-n-propylpyrimidine (4.6 g, yield 87%).

reactant | 2-(6-o-chlorophenoxy-2-pyridinyl)-4-hydroxy-6-n-propylprimidine | 5 g | ClC1=C(OC2=CC=CC(=N2)C2=NC(=CC(=N2)O)CCC)C=CC=C1 | C18H16ClN3O2
reactant | phosphoryl chloride | 5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chlono-2-(6-o-chlorophenoxy-2-pyridinyl)-6-n-propylpyrimidine | 4.6 g, yield 87% | ClC1=NC(=NC(=C1)CCC)C1=NC(=CC=C1)OC1=C(C=CC=C1)Cl | C18H15Cl2N3O
